US07419984B2
6-(3-Bromo-phenyl)-N*4*-(4-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 53, 4-chloro-6-(3-bromo-phenyl)-pyrimidin-2-ylamine and 4-trifluoromethylaniline provided the title compound (30% yield). 1H NMR (CD3OD) δ 6.50 (s, 1H, Ar), 7.25-7.35 (t, 1H, Ar), 7.4-7.6 (m, 4H, Ar) 7.88 (d, 1H, Ar), 7.90 (d, 1H, Ar) 7.96 (d, 2H, Ar), 8.10 (s, 1H, Ar).

reactant | 4-chloro-6-(3-bromo-phenyl)-pyrimidin-2-ylamine | ClC1=NC(=NC(=C1)C1=CC(=CC=C1)Br)N | C10H7BrClN3
reactant | 4-trifluoromethylaniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | 6-(3-Bromo-phenyl)-N*4*-(4-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine | 30% yield | BrC=1C=C(C=CC1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)C(F)(F)F | C17H12BrF3N4
